US08232294B2
Step 5) 1-(2-hydroxyethyl)cyclopropyl benzoate
To a mixture of 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)cyclopropyl benzoate (690 mg, 2.38 mmol) in 20 mL of MeOH was added PPTS (896 mg, 3.57 mmol, Aldrich) at rt. The reaction mixture was stirred at rt overnight, then concentrated and purified by a silica gel column chromatography (4:1 (v/v) petroleum ether/EtOAc) to the title compound as light yellow oil (320 mg, 65%).

reactant | 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)cyclopropyl benzoate | 2.38 mmol, 690 mg | C(C1=CC=CC=C1)(=O)OC1(CC1)CCOC1OCCCC1 | C17H22O4
reactant | PPTS | 3.57 mmol, 896 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | MeOH | 20 mL | CO | CH4O
product | 1-(2-hydroxyethyl)cyclopropyl benzoate | C(C1=CC=CC=C1)(=O)OC1(CC1)CCO | C12H14O3
